US04228082
There were present in a stirrer equipped apparatus protected against moisture, 131 grams (1.0 mole) of benzoyl cyanide, 148 grams (2.0 moles) of t-butanol and 50 ml of methylene chloride and under stirring at about +50° C. it was treated by dropwise addition 150 grams (1.5 moles) of concentrated sulfuric acid. After the end of the dropping, the mixture was post-stirred for another hour at room temperature and then the entire mixture poured on 400 grams of ice and well agitated. Subsequently, the mixture was extracted with methylene chloride and the methylene chloride solution evaporated. There resulted 195 grams of phenylglyoxylic-N-t-butylamide which corresponds to a yield of 95% based on the acyl cyanide added. The amide has a melting point of 76°-77° C.

reactant | benzoyl cyanide | 1.0 mole, 131 grams | C(C1=CC=CC=C1)(=O)C#N | C8H5NO
reactant | t-butanol | 2.0 moles, 148 grams | C(C)(C)(C)O | C4H10O
reactant | sulfuric acid | 1.5 moles, 150 grams | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | phenylglyoxylic-N-t-butylamide | 195 grams, yield of 95% | C(C)(C)(C)NC(C(=O)C1=CC=CC=C1)=O | C12H15NO2
